US05591735
Preparation of 2β-(4-acetyloxy-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol-diacetate
After adding 7.9 g of triethylamine to a solution containing 9 g of 2β-(4-hydroxy-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol in 80 ml of methylene chloride, 9 g of acetyl chloride are dropwise added to the solution at a temperature of 0° C. under cooling and stirring. After termination of the addition, the reaction mixture is maintained at room temperature for 24 hours. After completion of the reaction the excess of acetyl chloride is decomposed by water, the methylene chloride solution is washed with aqueous sodium hydroxide solution until it becomes acid-free, then washed with water several times until neutral. After drying the methylene chloride solution and evaporating, the residue is purified on a silica gel column to yield 8.3 g (71.9%) of the title compound, Rf1 =0.36.

reactant | triethylamine | 7.9 g | C(C)N(CC)CC | C6H15N
reactant | 2β-(4-hydroxy-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol | 9 g | OC1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O | C28H48N2O3
reactant | acetyl chloride | 9 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 2β-(4-acetyloxy-1-piperidinyl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol diacetate | 8.3 g, 71.9% | C(C)(=O)OC1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O.CC(=O)CC(=O)O | InChI=1S/C30H50N2O4.C4H6O3/c1-19(33)36-21-9-14-32(15-10-21)26-18-30(3)20(16-27(26)34)6-7-22-23(30)8-11-29(2)24(22)17-25(28(29)35)31-12-4-5-13-31;1-3(5)2-4(6)7/h20-28,34-35H,4-18H2,1-3H3;2H2,1H3,(H,6,7)/t20-,22+,23-,24-,25-,26-,27-,28-,29-,30-;/m0./s1
